* Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301\overlay\overlay_CAPshunt.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 25
.node_map CAPRTN 30
.node_map enable_shunt 31
.node_map maximum_channel$0 23
.node_map maximum_channel$1 22
.node_map clock 32
.node_map CAP1 29
.node_map CAP2 28
.node_map CAP3 27
.node_map CAP4 26
.node_map IN 24
.node_map done_captest 33
.options
+ PSP_NPT=50001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 1m 0

.globalvar TEMP=25
.globalvar tdext_khz=10

.globalvar IN = 12
.globalvar VIN = 5.0
.globalvar REF = 1.2
.globalvar VCC2P5=2.4

.globalvar CAP1=2.0
.globalvar CAP2=2.0
.globalvar CAP3=2.0
.globalvar CAP4=2.0

.PRINT V(#IN)
.GRAPH :#IN curveLabel= IN nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.GRAPH "ComposeDigital('#maximum_channel', [0, 1],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=bin curveLabel="maximum_channel" disabled=false 
.PRINT ^maximum_channel$*
.PRINT V(#done_captest)
.GRAPH :#done_captest curveLabel= done_captest nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe14  
.PRINT V(#SIMPV)
.GRAPH :#SIMPV curveLabel= SIMPV nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
.PRINT V(#CAP4)
.GRAPH :#CAP4 curveLabel= CAP4 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.PRINT V(#CAP3)
.GRAPH :#CAP3 curveLabel= CAP3 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe4  
.PRINT V(#CAP2)
.GRAPH :#CAP2 curveLabel= CAP2 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe5  
.PRINT V(#CAP1)
.GRAPH :#CAP1 curveLabel= CAP1 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe6  
.PRINT V(#CAPRTN)
.GRAPH :#CAPRTN curveLabel= cAPRTN nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe7  
.PRINT V(#enable_shunt)
.GRAPH :#enable_shunt curveLabel= enable_shunt nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe8  
.PRINT V(#clock)
.GRAPH :#clock curveLabel= clock nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe9  
X$SHUNT 24 33 25 26 27 28 29 30 32 31 23 22 CAPshunt
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301\design\CAPshunt.sxcmp
.subckt CAPshunt 42 43 44 45 46 47 48 49 50 51 40 41
*#hierarchy
.node_map SIMPV 44
.node_map dft_gate1 53
.node_map clock_shunt 50
.node_map CAPRTN 49
.node_map enable_shunt 51
.node_map maximum_channel$0 40
.node_map maximum_channel$1 41
.node_map shunt_active 43
.node_map dft_startup 52
.node_map hijack_enable_shunt 54
.node_map hijack_maximum_channel$0 38
.node_map CAP1 48
.node_map hijack_maximum_channel$1 39
.node_map CAP2 47
.node_map CAP3 46
.node_map CAP4 45
.node_map IN 42
X$DEBUG 51 54 40 41 38 39 52 53 CAPshuntDRIVERdebug
X$MAIN 42 43 44 52 45 53 46 47 48 49 54 38 39 50 CAPshuntDRIVERmain
X$U1 46 pinprobe vars: pinprobe_description='CAP3_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U10 43 pinprobe vars: pinprobe_description='SHUNT_is_enabled' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U14 49 pinprobe vars: pinprobe_description='SHUNT_capacitor_ground_return' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U2 47 pinprobe vars: pinprobe_description='CAP2_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U37 42 pinprobe vars: pinprobe_description='CAP4_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U38 44 pinprobe vars: pinprobe_description='CAP4_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U4 51 pinprobe vars: pinprobe_description='Enable_shunt_brick' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U5 45 pinprobe vars: pinprobe_description='CAP4_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U6 48 pinprobe vars: pinprobe_description='CAP1_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='pad'
X$U9 50 pinprobe vars: pinprobe_description='Master_clock' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
.ends CAPshunt

** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301\design\CAPshuntDRIVERdebug.sxcmp
.subckt CAPshuntDRIVERdebug 25 26 29 31 30 32 27 28
*#hierarchy
.node_map dft_gate1 28
.node_map enable_shunt 25
.node_map maximum_channel$0 29
.node_map maximum_channel$1 31
.node_map dft_startup 27
.node_map hijack_enable_shunt 26
.node_map hijack_maximum_channel$0 30
.node_map hijack_maximum_channel$1 32
X$U1 25 26 dfthijack vars: dfthijack_name='CAPshuntENABLE' dfthijack_description='Hijack_SHUNT_enable_inpiut' dfthijack_enable='bypass' dfthijack_enabletimeunits1='us' dfthijack_enabletimeunits2='us' dfthijack_enabletimeunits3='us' dfthijack_enabletimeunits4='us' dfthijack_enabletimeunits5='us' dfthijack_enabletimeunits6='us' dfthijack_enabletimeunits7='us' dfthijack_enabletimeunits8='us' dfthijack_state='logic' dfthijack_output='0' dfthijack_timeenablecodes=1 dfthijack_startcode=0 dfthijack_newcode1=1 dfthijack_enabletime1=1 dfthijack_newcode2=1 dfthijack_enabletime2=1 dfthijack_newcode3=1 dfthijack_enabletime3=1 dfthijack_newcode4=1 dfthijack_enabletime4=1 dfthijack_newcode5=1 dfthijack_enabletime5=1 dfthijack_newcode6=1 dfthijack_enabletime6=1 dfthijack_newcode7=1 dfthijack_enabletime7=1 dfthijack_newcode8=1 dfthijack_enabletime8=1 dfthijack_vmax=6 dfthijack_comment=1
X$U2 26 pinprobe vars: pinprobe_description='Hijack_enable_shunt_brick' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U3 29 32 dfthijack vars: dfthijack_name='CAPshuntSELECT0' dfthijack_description='Hijack_SHUNT_control_input0' dfthijack_enable='bypass' dfthijack_enabletimeunits1='us' dfthijack_enabletimeunits2='us' dfthijack_enabletimeunits3='us' dfthijack_enabletimeunits4='us' dfthijack_enabletimeunits5='us' dfthijack_enabletimeunits6='us' dfthijack_enabletimeunits7='us' dfthijack_enabletimeunits8='us' dfthijack_state='logic' dfthijack_output='0' dfthijack_timeenablecodes=1 dfthijack_startcode=0 dfthijack_newcode1=1 dfthijack_enabletime1=1 dfthijack_newcode2=1 dfthijack_enabletime2=1 dfthijack_newcode3=1 dfthijack_enabletime3=1 dfthijack_newcode4=1 dfthijack_enabletime4=1 dfthijack_newcode5=1 dfthijack_enabletime5=1 dfthijack_newcode6=1 dfthijack_enabletime6=1 dfthijack_newcode7=1 dfthijack_enabletime7=1 dfthijack_newcode8=1 dfthijack_enabletime8=1 dfthijack_vmax=6 dfthijack_comment=1
X$U4 25 pinprobe vars: pinprobe_description='Enable_shunt_brick' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U5 31 30 dfthijack vars: dfthijack_name='CAPshuntSELECT1' dfthijack_description='Hijack_SHUNT_control_input1' dfthijack_enable='bypass' dfthijack_enabletimeunits1='us' dfthijack_enabletimeunits2='us' dfthijack_enabletimeunits3='us' dfthijack_enabletimeunits4='us' dfthijack_enabletimeunits5='us' dfthijack_enabletimeunits6='us' dfthijack_enabletimeunits7='us' dfthijack_enabletimeunits8='us' dfthijack_state='logic' dfthijack_output='0' dfthijack_timeenablecodes=1 dfthijack_startcode=0 dfthijack_newcode1=1 dfthijack_enabletime1=1 dfthijack_newcode2=1 dfthijack_enabletime2=1 dfthijack_newcode3=1 dfthijack_enabletime3=1 dfthijack_newcode4=1 dfthijack_enabletime4=1 dfthijack_newcode5=1 dfthijack_enabletime5=1 dfthijack_newcode6=1 dfthijack_enabletime6=1 dfthijack_newcode7=1 dfthijack_enabletime7=1 dfthijack_newcode8=1 dfthijack_enabletime8=1 dfthijack_vmax=6 dfthijack_comment=1
X$U6 27 pinprobe vars: pinprobe_description='Measure_SHUNT_startup_time' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U7 28 pinprobe vars: pinprobe_description='Measure_SHUNT_gate1' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$UCAPshuntGATE1 28 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='CAPshuntGATE1' dftprobe_description='Measure_CAPshunt_gate1' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UCAPshuntSTARTUP 27 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='CAPshuntSTARTUP' dftprobe_description='Measure_CAPshunt_startup_time' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
.ends CAPshuntDRIVERdebug

** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301\design\CAPshuntDRIVERmain.sxcmp
.subckt CAPshuntDRIVERmain 156 157 158 160 159 162 161 163 164 165 167 148 149 166
*#hierarchy
.node_map SIMPV 158
.node_map dft_gate1 162
.node_map clock_shunt 166
.node_map CAPRTN 165
.node_map BUS2$0 154
.node_map BUS2$1 155
.node_map enable_shunt 167
.node_map maximum_channel$0 148
.node_map maximum_channel$1 149
.node_map clock 174
.node_map shunt_active 157
.node_map dft_startup 160
.node_map status_gt1 169
.node_map gt1 179
.node_map status_gt2 170
.node_map gt2 178
.node_map status_gt3 172
.node_map gt3 176
.node_map status_gt4 173
.node_map enable1 150
.node_map gt4 168
.node_map enable2 151
.node_map enable3 152
.node_map okDELAY 177
.node_map enable4 153
.node_map CAP1 164
.node_map CAP2 163
.node_map CAP3 161
.node_map CAP4 159
.node_map ok 175
.node_map IN 156
.node_map or 171
X$CLAMP1 176 163 VESPAclampGATE
X$CLAMP2 178 164 VESPAclampGATE
X$CLAMP3 179 165 VESPAclampGATE
X$CLAMP4 168 161 VESPAclampGATE
X$U1 161 pinprobe vars: pinprobe_description='CAP3_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U10 165 164 179 147 146 145 fet vars: fet_usage='power' fet_replica='no' fet_type='n' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='no' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=6 count_1=0 fet_vmax=6
X$U11 176 111 112 113 114 115 116 117 158 152 172 156 currentgenerator vars: currentgenerator_polarity0='source' currentgenerator_polarity1='sink' currentgenerator_polarity2='sink' currentgenerator_polarity3='sink' currentgenerator_polarity4='sink' currentgenerator_polarity5='sink' currentgenerator_polarity6='sink' currentgenerator_polarity7='sink' currentgenerator_accuracy='no' currentgenerator_datasheet_accuracy_name='text' currentgenerator_datasheet_accuracy_description='text' currentgenerator_tempco='positive' currentgenerator_dft='no' currentgenerator_output0=20 currentgenerator_output1=1 currentgenerator_output2=1 currentgenerator_output3=1 currentgenerator_output4=1 currentgenerator_output5=1 currentgenerator_output6=1 currentgenerator_output7=1 currentgenerator_number=1 currentgenerator_tempco_gain=3 currentgenerator_vmax=6 currentgenerator_vout=24
X$U12 178 122 123 124 125 126 127 128 158 151 170 156 currentgenerator vars: currentgenerator_polarity0='source' currentgenerator_polarity1='sink' currentgenerator_polarity2='sink' currentgenerator_polarity3='sink' currentgenerator_polarity4='sink' currentgenerator_polarity5='sink' currentgenerator_polarity6='sink' currentgenerator_polarity7='sink' currentgenerator_accuracy='no' currentgenerator_datasheet_accuracy_name='text' currentgenerator_datasheet_accuracy_description='text' currentgenerator_tempco='positive' currentgenerator_dft='no' currentgenerator_output0=20 currentgenerator_output1=1 currentgenerator_output2=1 currentgenerator_output3=1 currentgenerator_output4=1 currentgenerator_output5=1 currentgenerator_output6=1 currentgenerator_output7=1 currentgenerator_number=1 currentgenerator_tempco_gain=3 currentgenerator_vmax=6 currentgenerator_vout=24
X$U13 179 129 130 131 132 133 134 135 158 150 169 156 currentgenerator vars: currentgenerator_polarity0='source' currentgenerator_polarity1='sink' currentgenerator_polarity2='sink' currentgenerator_polarity3='sink' currentgenerator_polarity4='sink' currentgenerator_polarity5='sink' currentgenerator_polarity6='sink' currentgenerator_polarity7='sink' currentgenerator_accuracy='no' currentgenerator_datasheet_accuracy_name='text' currentgenerator_datasheet_accuracy_description='text' currentgenerator_tempco='positive' currentgenerator_dft='no' currentgenerator_output0=20 currentgenerator_output1=1 currentgenerator_output2=1 currentgenerator_output3=1 currentgenerator_output4=1 currentgenerator_output5=1 currentgenerator_output6=1 currentgenerator_output7=1 currentgenerator_number=1 currentgenerator_tempco_gain=3 currentgenerator_vmax=6 currentgenerator_vout=24
X$U14 165 pinprobe vars: pinprobe_description='SHUNT_capacitor_ground_return' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U15 157 pinprobe vars: pinprobe_description='SHUNT_enabled-and_ready' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U16 150 151 152 153 148 149 167 decoder2 vars: decoder_type='pin' decoder_datasheet_name='text' decoder_datasheet_description='text' decoder_type_por='0' decoder_enable_pin='pin' decoder_timing='no' decoder_bits=2 decoder_enable_por=0 decoder_vmax=6
X$U17 168 176 178 179 179 139 141 143 161 163 164 165 162 140 142 144 resistorarray vars: resistor_array_type='poly' resistor_array_dummy='no' resistor_array_value=30 resistor_array_number=5 resistor_array_r1_series=5 resistor_array_r1_parallel=0 resistor_array_r2_series=5 resistor_array_r2_parallel=0 resistor_array_r3_series=5 resistor_array_r3_parallel=0 resistor_array_r4_series=5 resistor_array_r4_parallel=0 resistor_array_r5_series=1 resistor_array_r5_parallel=0 resistor_array_r6_series=1 resistor_array_r6_parallel=0 resistor_array_r7_series=1 resistor_array_r7_parallel=0 resistor_array_r8_series=1 resistor_array_r8_parallel=0 resistor_array_vmax=6 resistor_array_imax=100u
X$U18 162 pinprobe vars: pinprobe_description='Measure_GATE1' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U19 166 pinprobe vars: pinprobe_description='Master_clock' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U2 163 pinprobe vars: pinprobe_description='CAP2_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U20 169 170 172 100 173 nor4 vars: logicgate_type='nor4' logicgate_vmax=6
X$U21 175 177 174 154 155 118 delayclock vars: delay_type='clock' delay_units='us' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='rise' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='text' delayclock_datasheetdescription='text' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=10 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=1 delayclock_por=0 delayclock_count0=21 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1000
X$U22 100 171 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U24 157 177 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U26 167 177 160 VESPAdftpulse
X$U27 160 pinprobe vars: pinprobe_description='Measure_SHUNT_startup_time' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U28 167 175 171 VESPAasmINPUT1
X$U29 167 174 166 VESPAasmINPUT1
X$U3 161 159 168 110 109 108 fet vars: fet_usage='power' fet_replica='no' fet_type='n' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='no' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=24 count_1=0 fet_vmax=6
X$U37 156 pinprobe vars: pinprobe_description='CAP4_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U38 158 pinprobe vars: pinprobe_description='CAP4_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U4 167 pinprobe vars: pinprobe_description='Enable_shunt_brick' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U5 159 pinprobe vars: pinprobe_description='CAP4_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U6 164 pinprobe vars: pinprobe_description='CAP1_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='pad'
X$U7 168 101 102 103 104 105 106 107 158 153 173 156 currentgenerator vars: currentgenerator_polarity0='source' currentgenerator_polarity1='sink' currentgenerator_polarity2='sink' currentgenerator_polarity3='sink' currentgenerator_polarity4='sink' currentgenerator_polarity5='sink' currentgenerator_polarity6='sink' currentgenerator_polarity7='sink' currentgenerator_accuracy='no' currentgenerator_datasheet_accuracy_name='text' currentgenerator_datasheet_accuracy_description='text' currentgenerator_tempco='positive' currentgenerator_dft='no' currentgenerator_output0=20 currentgenerator_output1=1 currentgenerator_output2=1 currentgenerator_output3=1 currentgenerator_output4=1 currentgenerator_output5=1 currentgenerator_output6=1 currentgenerator_output7=1 currentgenerator_number=1 currentgenerator_tempco_gain=3 currentgenerator_vmax=6 currentgenerator_vout=24
X$U8 163 161 176 121 120 119 fet vars: fet_usage='power' fet_replica='no' fet_type='n' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='no' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=20 count_1=0 fet_vmax=6
X$U9 164 163 178 138 137 136 fet vars: fet_usage='power' fet_replica='no' fet_type='n' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='no' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=12 count_1=0 fet_vmax=6
.ends CAPshuntDRIVERmain

** From Z:\celera\simplis\LIB\VESPA\VESPAclampGATE.sxcmp
.subckt VESPAclampGATE 29 32
*#hierarchy
.node_map S1 30
.node_map S2 31
.node_map N 32
.node_map P 29
C1 29 31 1f IC=0
C2 30 31 1f IC=0
C3 30 32 1f IC=0
X$U19 31 29 29 26 23 20 fet vars: fet_usage='signal' fet_replica='no' fet_type='n' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='no' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=6 count_1=0 fet_vmax=6
X$U25 29 pinprobe vars: pinprobe_description='Positive_terminal_of_gate_clamp' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U28 32 pinprobe vars: pinprobe_description='Negative_terminal_of_gate_clamp' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U29 30 31 31 27 24 21 fet vars: fet_usage='signal' fet_replica='no' fet_type='n' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='no' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=6 count_1=0 fet_vmax=6
X$U30 32 30 30 28 25 22 fet vars: fet_usage='signal' fet_replica='no' fet_type='n' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='no' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=6 count_1=0 fet_vmax=6
.ends VESPAclampGATE

** From Z:\celera\simplis\LIB\VESPA\VESPAdftpulse.sxcmp
.subckt VESPAdftpulse 7 8 9
*#hierarchy
.node_map start 7
.node_map stop 8
.node_map pulse 9
X$U11 7 pinprobe vars: pinprobe_description='DFT_timer_start_input'
X$U15 8 6 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U17 8 pinprobe vars: pinprobe_description='DFT_timer_stop_input'
X$U52 7 4 6 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U53 4 5 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U55 9 5 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U8 9 pinprobe vars: pinprobe_description='DFT_Timer_pulse'
.ends VESPAdftpulse

** From Z:\celera\simplis\LIB\VESPA\VESPAasmINPUT1.sxcmp
.subckt VESPAasmINPUT1 5 6 7
*#hierarchy
.node_map Tstate 5
.node_map i0 7
.node_map o 6
X$U1 5 pinprobe vars: pinprobe_description='state_blank_time'
X$U2 7 pinprobe vars: pinprobe_description='input1'
X$U3 6 pinprobe vars: pinprobe_description='INPUT1_output'
X$U4 5 4 7 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U5 4 6 inv vars: logicgate_type='inv' logicgate_vmax=6
.ends VESPAasmINPUT1

.end
